Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I haven't eaten a good meal in a long while. "
 
Major Surgical or Invasive Procedure:
Upper endoscopy

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .

 

Date: ___

Time: ___

_
________________________________________________________________

Name: ___. 
Location: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 
.
GI: ___
_
________________________________________________________________
___ yo F w/ increasing difficulty swallowing over the last 2 
days. She first developed this problem ___ years ago (___) 
and underwent EGD (___) and a barium swallow which 
demonstrated some dysmotility. She was prescribed omeprazole 
which was not helpful. Her symptoms persisted for one and half 
year but she ignored it as she was busy with work and was often 
travelling between ___ and ___. She saw GI at ___ on 
___ and was scheduled for and EGD on ___. She was 
prescribed reglan ___ but her symptoms progressed. 
She felt so weak because she hadn't eaten in days as nothing was 
staying down solids nor liquids. Whenever she ate the food would 
get stuck at the level of her thyroid and she would then 
regurgitate the food.  When the food got stuch she would 
experience a tightness in throat prior to the food being 
regurgitated. She has lost ___ lbs in the past 4 months.  As 
long as she is not trying to eat she is pain free. She was only 
able to tolerate ice chips. Even drinking water resulted in 
regurgitation. Over the past two days at night she developed a 
productive cough of watery phlegm. The day prior to admission 
whenver she coughed she would hear an airway sound ? stridor 
which has since resolved. No associated abdominal pain. 
.
A few weeks ago she had constipation but that has since resolved 
without intervention. No black or bloody stools. Her bowel 
habits have since returned to normal. 
.
In ER: (Triage Vitals: 0 99.6 98 138/86 14 100% RA  ) 
Meds Given: 99.6, 138/66, 98, 14
Fluids given: 1LNS
Radiology Studies: none
consults called: none

.

PAIN SCALE: 
She has a mild discomfort from something/residue being stuck in 
her throat ___ 

________________________________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[ ] Fever  [ ] Chills   [+ ] Sweats at night but she attributed 
this to menopause  [ ] Fatigue   [ ] Malaise   [ ]Anorexia  [ 
]Night sweats
[+ ] ___15__ lbs.    weight  loss/     over _____ months

HEENT:          [X] All Normal
[ ] Blurred vision   [ ] Blindness  [ ] Photophobia
[ ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[ ] Oral ulcers  [ ] Sore throat    [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [] All Normal
[ ] SOB     [ ] DOE    [ ] Can't walk 2 flights     [ +] 
nocturnal cough
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[ ] Other:

CARDIAC:        [X]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[ ] Orthopnea    [- ] Chest Pain [ ] Other:

GI:             [] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [] Nausea  [+] Vomiting   [ ] Reflux
[ ] Diarrhea    [ ] Constipation  [-]  Abd pain  [ ] Other:

GU:             [X] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  [-]Discharge 
[]Menorrhagia  
LMP 

SKIN:           [X] All Normal
[ ] Rash        [ ] Pruritus

MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [X] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [X] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [X] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

[X]all other systems negative except as noted above 

 
Past Medical History:
ASTHMA  
VITAMIN D DEFIC, UNSPEC  
ANEMIA  
HEMOGLOBINOPATHY SC trait 
OBESITY  
RHINITIS - ALLERGIC, UNSPEC CAUSE  

 
Social History:
Pt is married, has one child. Enjoys cooking,___, ___ 
activities. 
She works in ___ in the ___.  She manages a 
___ in ___ and ___ with the ___ ___. She is 
originally from ___ and emigrated her in ___. 
< ___
Cigarettes: [X ] never  [ ] ex-smoker   [] current Pack-yrs: 10
                       quit: ______
ETOH:       [x] No   [ ] Yes     drinks/day: _____
Drugs: none

Marital Status: [X ] Married  [] Single
Lives:          [ ] Alone    [] w/ family  [ ] Other:

Received influenza vaccination in the past 12 months [X ]Y [ ]N

Received pneumococcal vaccinationin the past 12 months [ ]Y [X]N

 
Family History:
Asthma                                               
Cancer - Breast Mother  at age ___ and she now has dementia. 
Alcoholism - Father- passed away at ___ from ETOH                
Hypertension- grandmother
No one else in her family has other cancers or GI disorders. 

 
Physical Exam:
PAIN SCORE ___  in R neck

VS:  T = 98.3 P = 67 BP = 138/72 RR = 17 O2Sat = 98% RA 
GENERAL:  Very pleasant female who looks ___ years younger than 
her age. 
Nourishment: good  
She drank approximately 100 cc of water and half a saltine. At 
first she was able to keep the water down but then eventually 
regurgitated some of the cracker and the 20 cc of water 5 mins 
later. It was also painful for her to swallow this. 
Grooming: good  
Mentation: Alert, speaks in full sentences  
Eyes:NC/AT, no scleral icterus noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple, no stridor. I palpate the area of the R neck which 
the patient reports as painful but I cannot appreciate a mass or 
an outpouching. 
Respiratory: Initial opening wheezes which clear with repeat 
insipration 
Cardiovascular: RRR, nl. S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Genitourinary:  WNL
Rectal: guiac negative brown soft stool. 
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses b/l.  
Lymphatics/Heme/Immun: No cervical lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
Psychiatric:  WNL 

ACCESS: [x]PIV []CVL site ______

FOLEY: []present [X]none 

TRACH: []present [X]none  

PEG:[]present [X]none  [ ]site C/D/I 

COLOSTOMY: :[]present [X]none  [ ]site C/D/I 

 
Pertinent Results:
___ 02:39PM   UREA N-11 CREAT-0.8 SODIUM-141 POTASSIUM-3.7 
CHLORIDE-104 TOTAL CO2-27 ANION GAP-14
___ 02:39PM   estGFR-Using this
___:39PM   WBC-8.3 RBC-5.07 HGB-14.2 HCT-39.3 MCV-78* 
MCH-28.1 MCHC-36.2* RDW-14.3
___ 02:39PM   NEUTS-77.1* LYMPHS-16.4* MONOS-3.6 EOS-2.3 
BASOS-0.6
___ 02:39PM   PLT COUNT-210
.
LABS: see below

.

EKG: NONE

.

CXR: 
FINDINGS: No previous images. The heart is normal in size and 
lungs are 
clear without vascular congestion or pleural effusion. 

.

CT SCAN NECK (WET READ):
1. No neck mass, fluid collection, or lymphadenopathy seen. 
2. Moderately distended fluid-filled proximal esophagus warrants 
further 
evaluation with an esophagram. 
3. Moderate maxillary and ethmoid sinus disease. 
4. 5-mm right thyroid nodule. 

.

BLOOD/URINE CULTURE: NGTD 
.

OTHER DIAGNOSTICS:
PROCEDURES

Last Colonoscopy  ___
 Diminuitve nodules bx removed at 30 and 20cms.
PATH: hyperplastic

___ EGD

Mucosal inflammation noted in the antrum with streaky erythema. 
Biopsy obtained, results pending. 
Esophageal biopsies obtained from the mid-proximal portion of 
the esophagus. Some white plaques seen in esophagus which I 
believe is residual cetacaine

.
1. RANDOM GASTRIC ANTRUM BIOPSY:
Antral mucosa with mild chronic gastritis and increased 
eosinophils.
Giemsa stain is negative for increased mast cells and highlights 
the
eosinophils.
Multiple levels examined.
Immunohistochemical stain for H. pylori is NEGATIVE (appropriate
control slides reviewed).
.
2. ESOPHAGUS BIOPSY:
Squamous esophageal mucosa, negative for diagnostic abnormality.
PAS stain is negative for yeast.

IMAGING
Barium swallow: ___ 
The swallowing mechanism appears normal. No esophageal mass, 
ulcer, or constricting or obstructing lesion is demonstrated. 
There was some degree of stasis of barium in the esophagus with 
the patient upright. The barium refluxed from the mid and lower 
esophagus toward the upper esophagus at this time. This resolved 
spontaneously over approximately 1 minute. Some tertiary 
contractions are noted in the distal half of the esophagus. No 
hiatus hernia or gastroesophageal reflux was demonstrated. 
Barium was observed to flow freely into the stomach and from the 
stomach into the duodenum and proximal small bowel. 
IMPRESSION: 
1. Mild transient stasis and tertiary contractions in the 
esophagus. This may signify dysfunctional motility. 
2. Otherwise, negative examination. Specifically no mass, ulcer, 
or evidence of obstruction. 
.
___ ___ s/p polypectomy with path demonstrating benign polyps 
per patient. 

.
EGD (___):
There was spasm at the LES making it difficult to pass the scope 
into the stomach. The esophagus appeared mildly tortuous without 
dilation. There were multiple tertiary contractions. (biopsy, 
biopsy)
Erythema, friability and ulceration in the antrum compatible 
with erosive gastritis (biopsy)
Erythema and friability in the duodenal bulb compatible with 
mild duodenitis (biopsy)
Nodule in the fundus (biopsy, endoclip)
Polyp in the fundus (biopsy)
Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
HOSPITAL COURSE:
The patient is a delightful ___ year old female with a history of 
asthma who presents with a ___ year history of dysphagia more 
recently with odynophagia and weight loss. 
.
Dysphagia, Odynophagia and Weight loss: Likely due to a motility 
disorder, such as achalasia.  A upper endoscopy was performed 
which showed a spasm in esophagus suspicious for achalasia.  It 
also showed a nodule in the fundus suspicious for leiomyoma, 
this was biopsied.  It showed posibble eosinophilic 
esophagitis/gastritis and biopsies were taken to look for this.  
These biopsies should be followed up.  Also, she may require 
therapy if they show eosinophilic infiltrates.  Given the 
gastritis, her omeprazole dose was increased to 40 mg twice 
daily.  Serologies were sent for Chagas disease and were pending 
at the time of discharge.  These will also need to be 
followed-up.  We were unable to complete the motility work-up as 
an inpatient as these studies are not done for inpatients.  The 
patient was tolerating fluids and mechanical soft diet at the 
time of discharge.  Her labs were notably not consistent with 
dehydration indicating that she is able to maintain hydration as 
an outpatient.  Also, a CT neck was performed given her 
complaint of a neck mass and this was notable only for 
dilitation of the esophagus but negative for any neck masses or 
lymphadenopathy.  
Of note, the neck CT also showed a small thyroid nodule.  
Further work-up deferred to outpatient.
. 
Asthma: She was continued on her flovent.  
.
Low grade temp on admission and coughing:  She remained afebrile 
during her time in the hospital.  A CXR was performed and was 
negative.  Blood and urine cultures were NGTD at the time of 
discharge.  Suspect cough more likely to be due to her asthma.  
.
FOLLOW-UP/PENDING TESTS:
- esophageal and gastric biopsies
- final read of neck CT scan
- further work-up of thyroid nodule as indicated.

 
Medications on Admission:
Metoclopramide 10 mg Oral Tablet take up to qid ac meals and at 
hs x 5 days 
Fluticasone (FLOVENT HFA) 110 mcg/Actuation Inhalation Aerosol 
inhale 2 puffs TWICE DAILY and rinse your mouth thoroughly 
afterward (flovent hfa) 
Albuterol Sulfate (PROAIR HFA) 90 mcg/Actuation Inhalation HFA 
Aerosol Inhaler ___ puffs every ___ as needed; She hasn't 
needed her albuterol inhaler in the past ___ years
OMEPRAZOLE 20 MG CAP, DELAYED RELEASE take 1 capsule 30 minutes 
before first meal of day 

 
Discharge Medications:
1. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
2. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*120 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dysphagia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with difficulty swallowing.  
You had an upper endoscopy that showed inflammation of your 
stomach as well as in your esophagus.  You will need to 
follow-up with your gastroenterologist to find out about the 
results of the biopsies that were done while you were here.  You 
will need to have motility testing as an outpatient, already 
scheduled for next ___.  
...
MEDICATION CHANGES: 
- INCREASE Omeprazole to 40 mg (two pills) twice daily
- STOP Reglan (since it wasn't helping you).
 
Followup Instructions:
___